** sch_path: /home/bilal/model_generation/fet_sweep.sch
**.subckt fet_sweep
VGS nmos_vgs GND {vgs}
XM1 nmos_vds nmos_vgs GND GND sky130_fd_pr__nfet_01v8 L={l} W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
VDS nmos_vds GND {vds}
.save i(vds)
**** begin user architecture code


.lib D:\Users\Bilal\TinyTapeout\volare\sky130\versions\bdc9412b3e468c102d01b7cf6337be06ec6e9c9a\sky130A\libs.tech\combined\sky130.lib.spice tt
.param vds=0.9
.param vgs=0.6
.param l=0.15
.save all
.op
.control
	dc VGS 0.6 1.2 0.025
	plot -2*vds#branch/@m.xm1.msky130_fd_pr__nfet_01v8[gm]
.endc

.GLOBAL GND
.end
